US05830915
N-((R)-Methylphenylphosphinyl)-N-benzyl-D-leucine methyl ester (181 mg, 0.55 mmol) is treated with a solution of NH2OK (2.2 mL, 1.76M in methanol) prepared as described in Fieser and Fieser, Vol. 1, p. 478). The reaction is stirred for 16 hours at which time TLC indicates completion. The reaction mixture is neutralized with 1M aqueous HCl and the volatiles are removed. The desired product is purified over flash silica eluting with THF. The resulting residue is crystallized by dissolving in ethyl acetate and adding hexane until the solution becomes cloudy. N-Hydroxy-2(R)-[[(R)-methylphenylphosphinyl]-benzylamino]-propionamide is obtained as hard, dense colorless crystals: MS-IS m/z 333 [M+H]+, 355 [M+Na]+. (R1 =benzyl, R2 =methyl, R3 =phenyl, R4 =phenyl).

reactant | N-((R)-Methylphenylphosphinyl)-N-benzyl-D-leucine methyl ester | 0.55 mmol, 181 mg | COC([C@H](N(CC1=CC=CC=C1)[P@](=O)(C1=CC=CC=C1)C)CC(C)C)=O | C21H28NO3P
reactant | NH2OK | 1.76M, 2.2 mL | NO[K]
reactant | HCl | 1M | Cl | ClH
product | N-Hydroxy-2(R)-[[(R)-methylphenylphosphinyl]-benzylamino]-propionamide | ONC([C@@H](C)N(CC1=CC=CC=C1)[P@](=O)(C1=CC=CC=C1)C)=O | C17H21N2O3P
